US05629325
30a. 5-(5,5-Dimethyl-1,3-hexadienyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine
To a solution of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine (272 mg, 3.0 mmol) in acetonitrile (3.0 mL) and triethylamine (2.5 mL) was added 5,5-dimethyl-1,3-hexadiene (0.50 mL), palladium acetate (23.0 mg, 0.1 mmol) and tri-o-tolylphosphine (122 mg, 0.1 mmol). After being heated in a sealed tube at 100° C. overnight, the resulting mixture was cooled to room temperature. Minimum amount of saturated sodium bicarbonate was added to free the amine hydrochloride salt, and the mixture was extracted with EtOAc, dried (MgSO4), and concentrated. The residue was chromatographed on a silica gel column, eluting with CHCl3 /MeOH 10:1 to afford a light yellowish oil (225 mg, 75%). MS (CI/NH3) m/z 301 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.08 (S, 9H), 1.55-1.77 (m, 3H), 1.98-2.10 (m, 1H), 2.37-2.47 (m, 1H), 2.50 (s, 3H), 2.64-2.73 (m, 1H), 3.07-3.17 (m, 1H), 3.90-4.06 (m, 2H), 5.93 (d, J=15.5 Hz, 1H), 6.16 (dd, J=15.5, 9.9 Hz, 1H), 6.42 (d, J=15.5 Hz, 1H), 6.78 (dd, J=9.9, 15.5 Hz, 1H), 7.21 (dd, J=3.0, 1.5 Hz, 1H), 8.14 (d, J=3.0 Hz, 1H), 8.19 (d, J=1.5 Hz, 1H).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 3.0 mmol, 272 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | 5,5-dimethyl-1,3-hexadiene | 0.50 mL | CC(C=CC=C)(C)C | C8H14
reactant | tri-o-tolylphosphine | 0.1 mmol, 122 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 3.0 mL | C(C)#N | C2H3N
solvent | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.1 mmol, 23.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(5,5-Dimethyl-1,3-hexadienyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 225 mg, 75% | CC(C=CC=CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C)(C)C | C19H28N2O
